US05516788
cis-5,5a,6,10b-Tetrahydro-9-fluoroindeno[2,1-b]indole.
5,6-Dihydro-9-fluoroindeno[2,1-b]indole (0.55 g, 2.5 mM) in glacial acetic acid (25 cm3) was stirred and treated with sodium cyanoborohydride (2.1 g, 36.5 mM) in small portions over 10 hours, maintaining the temperature below 18° C. The amount of the reducing agent appears crucial since mixtures form if more is added. The reaction mixture was then added to ice-water (100 cm3) and the yellow oil which was formed was separated from the aqueous phase. The pH of the aqueous phase was then adjusted to 6 by the addition of sodium carbonate (30 g), and the colourless oil which was liberated was extracted into diethyl ether (4×20 cm3). The combined extracts were dried and evaporated to yield an oil which was extracted with hot 60°-80° C. petroleum ether (6×10 cm3) and the residue triturated with ethanol (1 cm3). This treatment caused the compound to crystallise as a colourless prisms which recrystallised from ethanol to give the title compound. Yield: 60 mg, 11% M.p. 116°-117° C.; 1H NMR (CDCl3) δ: 3.06 (1H, dd, J=16.5 and 1.5 Hz), 3.31 (1H, dd, J=16.5 and 6.0 Hz), 3.67 (1H, br.s), 4.70 (1H, d, J=8.0 Hz), 4.82 (1H, ddd, J=8.0, 6.0 and 1.5 Hz), 6.43 (1H, dd, J=8.5 and 4.0 Hz), 6.70 (1H, ddd, J=8.5, 8.5 and 2.5 Hz), 7.07 (1H, dd, J=8.5 and 2.5 Hz), 7.16-7.25 (3H, m), 7.33 (1H, m).

reactant | 5,6-Dihydro-9-fluoroindeno[2,1-b]indole | 2.5 mM, 0.55 g | FC1=CC=C2CC=3NC4=CC=CC=C4C3C2=C1 | C15H10FN
reactant | sodium cyanoborohydride | 36.5 mM, 2.1 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 25 cm3 | C(C)(=O)O | C2H4O2
product | cis-5,5a,6,10b-Tetrahydro-9-fluoroindeno[2,1-b]indole | FC1=CC=C2C[C@H]3NC4=CC=CC=C4[C@H]3C2=C1 | C15H12FN
